US06143764
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-propylurea [194]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) was dissolved in N,N-dimethylformamide (3 ml), propyl isocyanate (0.2 ml) was added, and the admixture was stirred at 80° C. for 24 hours. Water was added to the reaction mixture, the admixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 59 mg of the title compound (yield: 84%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | propyl isocyanate | 0.2 ml | C(CC)N=C=O | C4H7NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-propylurea | 59 mg, yield: 84% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NCCC | C21H23N3O4
